US08557821B2
To a solution of (2-{1-[2-(2,5-dimethyl-phenyl)-acetyl]-piperidin-4-yl}-thiazol-4-yl)-carbamic acid tert-butyl ester (5.65 g, 13.15 mmol) is added a solution of 4M HCl in dioxane (35 mL) at RT. After stirring 3 days at RT, the solvent is evaporated under reduce pressure. The resulting solid is triturated with diethylether, and filtered to give 1-[4-(4-amino-thiazol-2-yl)piperidin-1-yl]-2-(2,5-dimethyl-phenyl)-ethanone hydrochloride salt, which is suspended in aqueous saturated sodium bicarbonate (500 mL). After stirring 30 min at RT, the reaction mixture is extracted with ethyl acetate (500 mL). The combined organic layers are washed with water (100 mL) and brine (100 mL), filtered, dried over sodium sulfate, and evaporated under reduced pressure to give 1-[4-(4-amino-thiazol-2-yl)-piperidin-1-yl]-2-(2,5-dimethyl-phenyl)-ethanone (3.27 g, 75%). 1H-NMR (400 MHz, CDCl3): δ=1.53-1.61 (m, 1H), 1.67-1.79 (m, 1H), 1.95-2.04 (m, 1H), 2.08-2.13 (m, 1H), 2.25 (s, 3H), 2.30 (s, 3H), 2.78-2.88 (m, 1H), 3.06-3.20 (m, 2H), 3.68 (s, 2H), 3.80-3.89 (m, 1H), 4.05 (s, 1H), 4.68-4.74 (m, 1H), 6.95 (s, 1H), 6.98 (d, 1H), 7.07 (d, 1H), 7.23 (s, 1H). MS: m/z=330 (M+1). MS: m/z=330 (M+1).

reactant | (2-{1-[2-(2,5-dimethyl-phenyl)-acetyl]-piperidin-4-yl}-thiazol-4-yl)-carbamic acid tert-butyl ester | 13.15 mmol, 5.65 g | C(C)(C)(C)OC(NC=1N=C(SC1)C1CCN(CC1)C(CC1=C(C=CC(=C1)C)C)=O)=O | C23H31N3O3S
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | 1-[4-(4-amino-thiazol-2-yl)piperidin-1-yl]-2-(2,5-dimethyl-phenyl)-ethanone hydrochloride salt | Cl.NC=1N=C(SC1)C1CCN(CC1)C(CC1=C(C=CC(=C1)C)C)=O | InChI=1S/C18H23N3OS.ClH/c1-12-3-4-13(2)15(9-12)10-17(22)21-7-5-14(6-8-21)18-20-16(19)11-23-18;/h3-4,9,11,14H,5-8,10,19H2,1-2H3;1H
